US03931217
Preparation of 2-benzoyl-4-chlorobenzaldehyde
A solution of 9.3 g. of 5-chloro-2-hydroxymethylbenzhydrol in 50 ml. of acetic acid and 5.2 g. of selenium dioxide was refluxed for 3 hours. The mixture was filtered, cooled, poured on ice, made alkaline and extracted with ether. Concentration and addition of petroleum ether gave the product as prisms which after recrystallization from a mixture of ether and petroleum ether melted at 82°-84°. Ultraviolet maxima (2-propanol) at 230 mμ (ε = 19,500) and 257 mμ (ε = 23,500); infrared absorption (CHCl3) at 1675 cm-1 and 1705 cm-1.

reactant | 5-chloro-2-hydroxymethylbenzhydrol | ClC=1C=CC(=C(C(C2=CC=CC=C2)O)C1)CO | C14H13ClO2
reactant | selenium dioxide | [Se](=O)=O | O2Se
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-benzoyl-4-chlorobenzaldehyde | C(C1=CC=CC=C1)(=O)C1=C(C=O)C=CC(=C1)Cl | C14H9ClO2
